US05939451
6.2 g (0.0138 mol) of N-[4-(2,6-dibromo-pyridin-4-yl-sulfamoyl)-phenyl]-acetamide were dissolved in 138 ml of 1N NaOH and boiled at reflux for 2 hours. After cooling the mixture was adjusted to pH 6 with 2N HCl and the precipitate which separated was filtered off. The material on the suction filter was washed well with water and dried. It was subsequently chromatographed on silica gel with ethyl acetate/hexane 1:2→1:1. There were obtained 4.86 g (86%) of 4-amino-N-(2,6-dibromo-pyridin-4-yl)-benzenesulfonamide as beige crystals; m.p.: 220-222° C.

reactant | N-[4-(2,6-dibromo-pyridin-4-yl-sulfamoyl)-phenyl]-acetamide | 0.0138 mol, 6.2 g | BrC1=NC(=CC(=C1)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O)Br | C13H11Br2N3O3S
reactant | HCl | 2N | Cl | ClH
solvent | NaOH | 1N, 138 ml | [OH-].[Na+]
product | 4-amino-N-(2,6-dibromo-pyridin-4-yl)-benzenesulfonamide | 4.86 g, 86% | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)Br)Br | C11H9Br2N3O2S
